US04029787
4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-N-methylbenzylamide
33.8 Grams of 4-chloro-3-sulfamoylbenzoic acid-N-methylbenzylamide (0.1 mole) were heated with 80 ml of N-methylpiperazine for 4 hours under reflux. Subsequently the solution was introduced into 0.4 l of water, the pH value of the mixture was adjusted to 9.0 by means of glacial acetic acid, and the mixture was then allowed to stand for 2 days at room temperature. The crystalline precipitate was separated and was recrystallized from a mixture of ethanol and water.

reactant | 4-chloro-3-sulfamoylbenzoic acid-N-methylbenzylamide | 0.1 mole | CN(C(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)CC1=CC=CC=C1 | C15H15ClN2O3S
reactant | N-methylpiperazine | 80 ml | CN1CCNCC1 | C5H12N2
reactant | water | 0.4 l | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-N-methylbenzylamide | CN(C(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N)(=O)=O)=O)CC1=CC=CC=C1 | C20H26N4O3S
